US08222266B2
Preparation 36: 1-(4-Chloro-butyl)-4-(3,5-dimethyl-isoxazol-4-yl)-1H-pyrimidin-2-one (Prep36)
To a solution of 4-(3,5-dimethyl-isoxazol-4-yl)-1H-pyrimidin-2-one (156 mg, 0.82 mmol) in dry DMF (20 ml), 60% NaH (40 mg, 1.06 mmol) was added portionwise under inert atmosphere. After heating the mixture at 100° C. for 1 hour, 1-bromo-4-chloro-butane (123 μl, 1.06 mmol) was added at room temperature and the mixture was heated at 100° C. for 2 hours. Water was added and the mixture extracted with diethyl ether to remove the dialkylated product and finally with ethyl acetate. Ethyl acetate phase was dried (Na2SO4) and evaporated to afford 81 mg of the title compound that was used in the next step without further purification (35% yield).

reactant | 4-(3,5-dimethyl-isoxazol-4-yl)-1H-pyrimidin-2-one | 0.82 mmol, 156 mg | CC1=NOC(=C1C1=NC(NC=C1)=O)C | C9H9N3O2
reactant | NaH | 1.06 mmol, 40 mg | [H-].[Na+]
reactant | 1-bromo-4-chloro-butane | 1.06 mmol, 123 μl | BrCCCCCl | C4H8BrCl
reactant | Water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chloro-butyl)-4-(3,5-dimethyl-isoxazol-4-yl)-1H-pyrimidin-2-one | 81 mg, 35% yield | ClCCCCN1C(N=C(C=C1)C=1C(=NOC1C)C)=O | C13H16ClN3O2
